### PR TITLE
[Merged by Bors] - feat(Geometry/Euclidean/Incenter): touchpoints and tangency

### PR DESCRIPTION
**Pull request by jsm28**
Define touchpoints for an exsphere / insphere and set up basic lemmas about exspheres / inspheres being tangent to the faces at the touchpoints (previously only present in a form talking about distance, not in a form directly using definitions about tangency). There's more to be done in followups, in particular showing the signs of the barycentric coordinates of touchpoints (so that e.g. the touchpoints for the insphere are in the interiors of the faces), but I think setting up the definition here is a reasonable start.

---

- [ ] depends on: #25934

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Euclidean/Incenter.lean [hunk 1]
```diff
@@ -323,6 +323,14 @@ lemma ExcenterExists.signedInfDist_excenter_eq_mul_sum_inv {signs : Finset (Fin
   rw [← altitudeFoot, ← height]
   simp [mul_assoc, (s.height_pos i).ne']
 
+/-- A touchpoint is where an exsphere of a simplex is tangent to one of the faces. -/
+def touchpoint (signs : Finset (Fin (n + 1))) (i : Fin (n + 1)) : P :=
+  ((s.faceOpposite i).orthogonalProjectionSpan (s.excenter signs))
```
Comment (eric-wieser) [inline Mathlib/Geometry/Euclidean/Incenter.lean]:
```suggestion
  (s.faceOpposite i).orthogonalProjectionSpan (s.excenter signs)
```

File: Mathlib/Geometry/Euclidean/Incenter.lean [hunk 2]
```diff
@@ -362,9 +371,35 @@ lemma ExcenterExists.dist_excenter {signs : Finset (Fin (n + 1))} (h : s.Excente
 
 In other words, the incenter is tangent to the faces. -/
 lemma dist_incenter (i : Fin (n + 1)) :
-    dist s.incenter ((s.faceOpposite i).orthogonalProjectionSpan s.incenter) = s.inradius :=
+    dist s.incenter (s.touchpoint ∅ i) = s.inradius :=
```
Comment (eric-wieser) [inline Mathlib/Geometry/Euclidean/Incenter.lean:371]: Perhaps worth simplifying the docstring too?

File: Mathlib/Geometry/Euclidean/Incenter.lean [hunk 3]
```diff
@@ -362,9 +371,35 @@ lemma ExcenterExists.dist_excenter {signs : Finset (Fin (n + 1))} (h : s.Excente
...
+  s.excenterExists_empty.isTangentAt_touchpoint i
+
+variable {s} in
+lemma eq_touchpoint_of_isTangentAt_exsphere {signs : Finset (Fin (n + 1))} {i : Fin (n + 1)} {p : P}
+    (ht : (s.exsphere signs).IsTangentAt p (affineSpan ℝ (Set.range (s.faceOpposite i).points))) :
+    p = s.touchpoint signs i := by
+  rw [ht.eq_orthogonalProjection, touchpoint, orthogonalProjectionSpan, excenter]
+
+variable {s} in
+lemma eq_touchpoint_of_isTangentAt_insphere {i : Fin (n + 1)} {p : P}
```
Comment (eric-wieser) [inline Mathlib/Geometry/Euclidean/Incenter.lean]: Can you make this an Iff, where the reverse direction follows by substitution?

File: Mathlib/Geometry/Euclidean/Incenter.lean (hunk 2 above)
Comment (jsm28) [reply Mathlib/Geometry/Euclidean/Incenter.lean:371]: I've simplified the docstrings that were referring to tangency, now we have separate lemmas directly about tangency.

File: Mathlib/Geometry/Euclidean/Incenter.lean (hunk 3 above)
Comment (jsm28) [reply Mathlib/Geometry/Euclidean/Incenter.lean]: This is now `isTangentAt_insphere_iff_eq_touchpoint` (via `ExcenterExists.isTangentAt_exsphere_iff_eq_touchpoint`).

File: Mathlib/Geometry/Euclidean/Incenter.lean [hunk 4]
```diff
@@ -343,28 +351,62 @@ lemma signedInfDist_incenter (i : Fin (n + 1)) : s.signedInfDist i s.incenter =
...
-/-- The distance between the excenter and its projection in the plane of each face is the exradius.
-
-In other words, the exsphere is tangent to the faces. -/
+/-- The distance between the excenter and its projection in the plane of each face is the
+exradius. -/
 lemma ExcenterExists.dist_excenter {signs : Finset (Fin (n + 1))} (h : s.ExcenterExists signs)
     (i : Fin (n + 1)) :
-    dist (s.excenter signs) ((s.faceOpposite i).orthogonalProjectionSpan (s.excenter signs)) =
+    dist (s.excenter signs) (s.touchpoint signs i) =
       s.exradius signs := by
```
Comment (eric-wieser) [inline Mathlib/Geometry/Euclidean/Incenter.lean]: Now that the lines are short:
```suggestion
    dist (s.excenter signs) (s.touchpoint signs i) = s.exradius signs := by
```

File: Mathlib/Geometry/Euclidean/Incenter.lean [hunk 5]
```diff
@@ -323,6 +323,14 @@ lemma ExcenterExists.signedInfDist_excenter_eq_mul_sum_inv {signs : Finset (Fin
   rw [← altitudeFoot, ← height]
   simp [mul_assoc, (s.height_pos i).ne']
 
+/-- A touchpoint is where an exsphere of a simplex is tangent to one of the faces. -/
+def touchpoint (signs : Finset (Fin (n + 1))) (i : Fin (n + 1)) : P :=
+  (s.faceOpposite i).orthogonalProjectionSpan (s.excenter signs)
```
Comment (eric-wieser) [inline Mathlib/Geometry/Euclidean/Incenter.lean:328]: Perhaps future work, but it would be nice to show that the touchpoints are injective in `i` or even affine independent.

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!

File: Mathlib/Geometry/Euclidean/Incenter.lean (hunk 5 above)
Comment (jsm28) [reply Mathlib/Geometry/Euclidean/Incenter.lean:328]: I do actually plan to show that each touchpoint does not lie in any face other than the one it necessarily does lie in, on the way to proving the stronger statement about the signs of the barycentric coordinates of a touchpoint (in turn, that's relevant to going from a straightforward angle bisector statement involving a touchpoint as one of the points in the angle, to a statement in a form that's more convenient to use in practice). Though that doesn't give you affine independence; I'm not sure how you'd do that in the general n-dimensional case.

Comment (jsm28) [reply Mathlib/Geometry/Euclidean/Incenter.lean:328]: Informal argument for affine independence: working in n dimensions (the span of the vertices of the simplex), if the n+1 touchpoints lying on an exsphere all lie in an affine subspace with n-1 dimensions, then the tangent hyperplanes all pass through the pole of that affine subspace (if it doesn't pass through the excenter) or their directions all contain the direction orthogonal to that affine subspace (if it does pass through the excenter), either of which contradicts them being the hyperplanes of the faces of a simplex. Of course as written this involves basic facts about poles and polars that we don't have in mathlib.

Comment (jsm28) [reply Mathlib/Geometry/Euclidean/Incenter.lean:328]: Injectivity of touchpoints is now in #26530.
